US06573295B2
(e) 5-Acetyl-3-(3-chloro-propylsulfanyl)-2-hydroxy-benzamide
Solid aluminum chloride (9.0g, 67.7 mmol) was suspended in 20 mL of dry dichloromethane at 0° C. The 7,8-dihydro-6H-5-oxa-9-thia-benzocycloheptene-4-carboxylic acid amide (2.7 g, 12.7 mmol) was added as a solution in 20 mL dichloromethane. The deep green solution was stirred at 0° C. for 10 min, then neat acetyl chloride (10 mL, 140.6 mmol) was added dropwise with stirring. The suspension was stirred at 0° C. for 20 min, then at rt for 30 h. The reaction was quenched with 4 N HCl and extracted repeatedly with ethyl acetate. Drying over Na2SO4 and concentration yielded the crude product. Sgc (ethyl acetate) yielded the product as a tan solid (1.6 g, 44%). MS [M−H]− 286.

reactant | aluminum chloride | 67.7 mmol, 9.0g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 7,8-dihydro-6H-5-oxa-9-thia-benzocycloheptene-4-carboxylic acid amide | 12.7 mmol, 2.7 g | C1=CC=C(C2=C1SCCCO2)C(=O)N | C10H11NO2S
reactant | acetyl chloride | 140.6 mmol, 10 mL | C(C)(=O)Cl | C2H3ClO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 5-Acetyl-3-(3-chloro-propylsulfanyl)-2-hydroxy-benzamide | 1.6 g, 44% | C(C)(=O)C=1C=C(C(=C(C(=O)N)C1)O)SCCCCl | C12H14ClNO3S
